### PR TITLE
[Merged by Bors] - feat(Analysis/SpecificLimits/Normed): the sum ∑' n, n ^ k * r ^ n via Stirling numbers

### PR DESCRIPTION
**Pull request by pepamontero**
For `‖r‖ < 1`, compute `∑' n : ℕ, n ^ k * r ^ n` as the finite sum `∑ j ∈ range (k + 1), S(k, j) * j ! * r ^ j / (1 - r) ^ (j + 1)`, where `S(k, j)` are the Stirling numbers of the second kind.

**Motivation:** a special case of `tsum_sq_mul_geometric_of_norm_lt_one` over `ℂ` was proved in the FLT project and is generalized here to match the surrounding Mathlib API; the private FLT lemma can then be replaced by this one.

**Main additions to `Normed.lean`:**

- The general power formula:
	- `hasSum_pow_mul_geometric_of_norm_lt_one'` / `tsum_pow_mul_geometric_of_norm_lt_one'`: for `‖r‖ < 1` in a general ring, `∑' n, n ^ k * r ^ n = ∑ j ∈ range (k + 1), S(k, j) * j ! * r ^ j * ((1 - r)⁻¹ʳ) ^ (j + 1)`.
	- `hasSum_pow_mul_geometric_of_norm_lt_one` / `tsum_pow_mul_geometric_of_norm_lt_one`: the same in a field, with `/ (1 - r) ^ (j + 1)`.
- The `descFactorial` special case that supplies each term of that sum:
	- `hasSum_descFactorial_mul_geometric_of_norm_lt_one'` / `tsum_descFactorial_mul_geometric_of_norm_lt_one'`: for `‖r‖ < 1` in a general ring, `∑' n, n.descFactorial j * r ^ n = j ! * r ^ j * ((1 - r)⁻¹ʳ) ^ (j + 1)`.
	- `hasSum_descFactorial_mul_geometric_of_norm_lt_one` / `tsum_descFactorial_mul_geometric_of_norm_lt_one`: the field versions, with `/ (1 - r) ^ (j + 1)`.

**Additions to other files:**

- `Combinatorics/Enumerative/Stirling.lean`: `Nat.pow_eq_sum_stirlingSecond_mul_descFactorial`, expressing every power `n ^ k` as a linear combination  `n ^ k = ∑ j ∈ range (k + 1), stirlingSecond k j * n.descFactorial j`.
- `Data/Nat/Factorial/Basic.lean`: `Nat.descFactorial_mul_self`, the identity `n.descFactorial j * n = n.descFactorial (j + 1) + j * n.descFactorial j`, used in the induction proving the Stirling result above.

**Other changes:**

- `summable_pow_mul_geometric_of_norm_lt_one` (statement unchanged) is now a one-line consequence of the general formula; its previous proof via `ascPochhammer` is deleted, so the `RingTheory.Polynomial.Pochhammer` import is no longer needed.
- The statement of `summable_descFactorial_mul_geometric_of_norm_lt_one` changes from the shifted summand `(n + k).descFactorial k * r ^ n` to `n.descFactorial k * r ^ n`, to match the new `hasSum`/`tsum` lemmas. It had no other uses in Mathlib, and the shifted form is recoverable in one line from `summable_choose_mul_geometric_of_norm_lt_one`.
- The proof of `hasSum_coe_mul_geometric_of_norm_lt_one'` (`k = 1`) is simplified using the general formula, and the `k = 2` case is added: `∑' n, n ^ 2 * r ^ n = r * (1 + r) / (1 - r) ^ 3` (`hasSum_sq_mul_geometric_of_norm_lt_one'` and the three companion lemmas).
- The redundant imports mentioned above have now been removed; this required import edits in 8 dependent files that had relied on them transitively.

**AI Disclosure**: this code originated in the FLT project, where an initial version was written by William Coram and Samuel Yin with AI assistance (Claude, later cleaned up with Codex). It has since been substantially rewritten for this PR; little of the original generated code remains.

Co-authored-by: Malhar A. Patel <142735852+Mal-Pat@users.noreply.github.com>
Co-authored-by: William Coram
Co-authored-by: Samuel Yin

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 1]
```diff
@@ -548,6 +549,48 @@ theorem tsum_coe_mul_geometric_of_norm_lt_one {r : 𝕜} (hr : ‖r‖ < 1) :
     (∑' n : ℕ, n * r ^ n : 𝕜) = r / (1 - r) ^ 2 :=
   (hasSum_coe_mul_geometric_of_norm_lt_one hr).tsum_eq
 
+/-- If `‖r‖ < 1`, then `∑' n : ℕ, n ^ 2 * r ^ n = r * (1 + r) / (1 - r) ^ 3`, `HasSum` version in
+a general ring with summable geometric series. For a version in a field, using division instead
+of `Ring.inverse`, see `hasSum_sq_mul_geometric_of_norm_lt_one`. -/
+theorem hasSum_sq_mul_geometric_of_norm_lt_one' {x : R} (h : ‖x‖ < 1) :
+    HasSum (fun n : ℕ ↦ (n : R) ^ 2 * x ^ n) (x * (1 + x) * ((1 - x)⁻¹ʳ) ^ 3) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: What's the general statement? Can we prove it?
```suggestion
    HasSum (fun n : ℕ ↦ (n : R) ^ k * x ^ n) (???) := by
```

Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: At first I thought we couldn't with current Mathlib but maybe we can. Let me look into it

Comment (Mal-Pat) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: I think it can be done - I'm working on it.

**Comment by pepamontero** [comment]
Hello @YaelDillies! @Mal-Pat and I have worked on this generalization and we believe it is now complete. I have tried to add a detailed but not too long PR description about the additions and changes.

As a note, because of the changes we made to the proofs already present, there is (at least) one big import in the file `Normed.lean` that is no longer needed (`import Mathlib.RingTheory.Polynomial.Pochhammer`). I tried removing it, but a handful of downstream files (ContDiff/Defs, OrdinaryHypergeometric, Pow/Deriv, Trigonometric/Basic, ...) were relying on it transitively and need their own direct imports added.

I've left the import in for now so this PR doesn't have a huge number of changed files, but I'm happy to do the cleanup (here or as a follow-up) if you think that's best.

Edit: I've made a PR handling this so exact number of files changed is easily available #41725

**Comment by pepamontero** [comment]
-awaiting-author

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 2]
```diff
@@ -478,57 +479,103 @@ lemma tsum_choose_mul_geometric_of_norm_lt_one (k : ℕ) {r : 𝕜} (hr : ‖r
...
-  convert! (summable_choose_mul_geometric_of_norm_lt_one k hr).mul_left (k.factorial : R) using
-    2 with n
-  simp [← mul_assoc, descFactorial_eq_factorial_mul_choose (n + k) k]
+/-- If `‖r‖ < 1`, then `∑' n : ℕ, n.descFactorial j * r ^ n = j ! * r ^ j / (1 - r) ^ (j + 1)`,
+`HasSum` version in a general ring with summable geometric series. For a version in a field,
+using division instead of `Ring.inverse`, see
+`hasSum_descFactorial_mul_geometric_of_norm_lt_one`. -/
+theorem hasSum_descFactorial_mul_geometric_of_norm_lt_one' (j : ℕ) {r : R} (h : ‖r‖ < 1) :
+    HasSum (fun n : ℕ ↦ (n.descFactorial j : R) * r ^ n)
+      ((j.factorial : R) * r ^ j * ((1 - r)⁻¹ʳ) ^ (j + 1)) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: Do you really need this type ascription?
```suggestion
      (j.factorial * r ^ j * ((1 - r)⁻¹ʳ) ^ (j + 1)) := by
```
Same below

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 3]
```diff
@@ -478,57 +479,103 @@ lemma tsum_choose_mul_geometric_of_norm_lt_one (k : ℕ) {r : 𝕜} (hr : ‖r
...
+  · funext n
+    symm
+    push_cast [Nat.descFactorial_eq_factorial_mul_choose]
+    rw [mul_assoc, ((Nat.cast_commute ((n + j).choose j) (r ^ j)).symm).left_comm, ← pow_add,
+      add_comm j n, mul_assoc]
+  · exact sub_eq_self.2 <| Finset.sum_eq_zero fun i hi ↦ by
+      simp [descFactorial_eq_zero_iff_lt.2 (Finset.mem_range.1 hi)]
+
+/-- If `‖r‖ < 1`, then `∑' n : ℕ, n.descFactorial j * r ^ n = j ! * r ^ j / (1 - r) ^ (j + 1)`,
+version in a general ring with summable geometric series. For a version in a field, using
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]:
```suggestion
/-- If `‖r‖ < 1`, then `∑' n : ℕ, n.descFactorial j * r ^ n = j ! * r ^ j / (1 - r) ^ (j + 1)`.

This is the version in a general ring with summable geometric series. For a version in a field, using
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 4]
```diff
@@ -478,57 +479,103 @@ lemma tsum_choose_mul_geometric_of_norm_lt_one (k : ℕ) {r : 𝕜} (hr : ‖r
...
+
+/-- If `‖r‖ < 1`, then `∑' n : ℕ, n ^ k * r ^ n` is given by the finite sum
+`∑ j ∈ range (k + 1), S(k, j) * j ! * r ^ j / (1 - r) ^ (j + 1)`, where `S(k, j)` denotes the
+Stirling numbers of the second kind. `HasSum` version. -/
+theorem hasSum_pow_mul_geometric_of_norm_lt_one (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
+    HasSum (fun n : ℕ ↦ (n : 𝕜) ^ k * r ^ n)
+      (∑ j ∈ Finset.range (k + 1),
+        stirlingSecond k j * j.factorial * r ^ j / (1 - r) ^ (j + 1)) := by
+  convert! hasSum_pow_mul_geometric_of_norm_lt_one' k hr using 1
+  simp [div_eq_mul_inv]
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: Does this work instead?
```suggestion
  simpa [div_eq_mul_inv] using hasSum_pow_mul_geometric_of_norm_lt_one' k hr using 1
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 5]
```diff
@@ -478,57 +479,103 @@ lemma tsum_choose_mul_geometric_of_norm_lt_one (k : ℕ) {r : 𝕜} (hr : ‖r
...
-  · ext n
-    simp [add_mul]
-  · symm
-    calc (1 - x)⁻¹ʳ ^ 2 - (1 - x)⁻¹ʳ
-    _ = (1 - x)⁻¹ʳ ^ 2 - ((1 - x) * (1 - x)⁻¹ʳ) * (1 - x)⁻¹ʳ := by
-      simp [Ring.mul_inverse_cancel (1 - x) (isUnit_one_sub_of_norm_lt_one h)]
-    _ = x * (1 - x)⁻¹ʳ ^ 2 := by noncomm_ring
+  convert! hasSum_pow_mul_geometric_of_norm_lt_one' 1 h using 1
+  · simp
+  · simp [Finset.sum_range_succ, stirlingSecond_self]
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: Similarly here

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 6]
```diff
@@ -548,6 +595,40 @@ theorem tsum_coe_mul_geometric_of_norm_lt_one {r : 𝕜} (hr : ‖r‖ < 1) :
...
   (hasSum_coe_mul_geometric_of_norm_lt_one hr).tsum_eq
 
+/-- If `‖r‖ < 1`, then `∑' n : ℕ, n ^ 2 * r ^ n = r * (1 + r) / (1 - r) ^ 3`, `HasSum` version
+in a general ring with summable geometric series. For a version in a field, using division
+instead of `Ring.inverse`, see `hasSum_sq_mul_geometric_of_norm_lt_one`. -/
+theorem hasSum_sq_mul_geometric_of_norm_lt_one' {r : R} (h : ‖r‖ < 1) :
+    HasSum (fun n : ℕ ↦ (n : R) ^ 2 * r ^ n) (r * (1 + r) * ((1 - r)⁻¹ʳ) ^ 3) := by
+  have h1 : ((1 - r)⁻¹ʳ) ^ 2 = (1 - r) * ((1 - r)⁻¹ʳ) ^ 3 := by
+    rw [pow_succ' _ 2, ← mul_assoc,
+      Ring.mul_inverse_cancel _ (isUnit_one_sub_of_norm_lt_one h), one_mul]
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: This really ough to be
```suggestion
  have h1 : ((1 - r)⁻¹ʳ) ^ 2 = (1 - r) * ((1 - r)⁻¹ʳ) ^ 3 := by field_simp; ring
```
Could you investigate how hard it would be for `field_simp` to support `Ring.inverse`?

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 2 above)
Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: Not really, and I realized this happened many times throughout the file. Changed in ce47bab92a101bb198054b8e736cea687d9e6eb7 and fbef4c8171a464b800d234b7f8ed4053f78b725c

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 3 above)
Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: I think I've handled all of these here caab0ddf5c55c1f2b9bd668ab25f22e0a6f8dfdf

Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: Wait would you always add a blank line between statement description and the "versions" detail?

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 4 above)
Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: Changed this in a bunch of places 99c15a71ba326d996e91ace5a3401a8a8095e489

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 6 above)
Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: I have looked a bit into this (I have limited metaprogramming experience) and it doesn't feel like a small addition. The algorithm in `field_simp` requires having a `CommGroupWithZero`, so on one hand I think it tries to use commutativity to simplify the goal (which you don't necessarily have here) and also tries to cancel terms by looking for statements of the form `x ≠ 0` (`Ring.inverse` would require `IsUnit x`).

I don't think that I can handle that myself, but I am going to ask on Zulip whether this is something worth pursuing. It seems out of scope for this PR.

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: I wouldn't say "always", it depends.

Comment (YaelDillies) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: Agreed with Michael. I would do it when the version isn't so relevant to understanding the statement

Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: Alright I think I did it correctly but let me know e8724826b722627bf81906d8b6d942b2ad573f56 6d0dee6b57e212cd518fd750ed523e9aba4d214f

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 7]
```diff
@@ -14,6 +14,7 @@ public import Mathlib.Analysis.Normed.Module.Basic
 public import Mathlib.Analysis.Normed.Order.Lattice
 public import Mathlib.Analysis.SpecificLimits.Basic
 public import Mathlib.Data.List.TFAE
+public import Mathlib.Combinatorics.Enumerative.Stirling
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean:15]:
```suggestion
public import Mathlib.Combinatorics.Enumerative.Stirling
public import Mathlib.Data.List.TFAE
```
for the alphabet

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 8]
```diff
@@ -468,86 +467,168 @@ lemma tsum_choose_mul_geometric_of_norm_lt_one' (k : ℕ) {r : R} (hr : ‖r‖
...
-  convert! (summable_choose_mul_geometric_of_norm_lt_one k hr).mul_left (k.factorial : R) using
-    2 with n
-  simp [← mul_assoc, descFactorial_eq_factorial_mul_choose (n + k) k]
+/-- If `‖r‖ < 1`, then `∑' n : ℕ, n.descFactorial j * r ^ n = j ! * r ^ j / (1 - r) ^ (j + 1)`.
+
+`HasSum` version in a general ring with summable geometric series. For a version in a field, using
+division instead of `Ring.inverse`, see `hasSum_descFactorial_mul_geometric_of_norm_lt_one`. -/
+theorem hasSum_descFactorial_mul_geometric_of_norm_lt_one' (j : ℕ) {r : R} (h : ‖r‖ < 1) :
+    HasSum (fun n : ℕ ↦ n.descFactorial j * r ^ n)
+      (j.factorial * r ^ j * ((1 - r)⁻¹ʳ) ^ (j + 1)) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]:
```suggestion
      (j.factorial * r ^ j * (1 - r)⁻¹ʳ ^ (j + 1)) := by
```
Same everywhere else

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 9]
```diff
@@ -468,86 +467,168 @@ lemma tsum_choose_mul_geometric_of_norm_lt_one' (k : ℕ) {r : R} (hr : ‖r‖
...
+    ∑' n : ℕ, n.descFactorial j * r ^ n = j.factorial * r ^ j * ((1 - r)⁻¹ʳ) ^ (j + 1) :=
+  (hasSum_descFactorial_mul_geometric_of_norm_lt_one' j h).tsum_eq
+
+lemma summable_descFactorial_mul_geometric_of_norm_lt_one (j : ℕ) {r : R} (hr : ‖r‖ < 1) :
+    Summable (fun n : ℕ ↦ n.descFactorial j * r ^ n) :=
+  (hasSum_descFactorial_mul_geometric_of_norm_lt_one' j hr).summable
+
+/-- If `‖r‖ < 1`, then `∑' n : ℕ, n.descFactorial j * r ^ n = j ! * r ^ j / (1 - r) ^ (j + 1)`.
+
+`HasSum` version. -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: I find this specific version information too trivial to include.
```suggestion
/-- If `‖r‖ < 1`, then `∑' n : ℕ, n.descFactorial j * r ^ n = j ! * r ^ j / (1 - r) ^ (j + 1)`. -/
```
Same below

**Comment by pepamontero** [comment]
-awaiting-author

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 9 above)
Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: :+1:  fc868a2d8fc1874d8f04416e03396d22d5434dc1

**Comment by pepamontero** [comment]
-awaiting-author

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: I can still see some

**Comment by pepamontero** [comment]
awaiting-author

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 8 above)
Comment (pepamontero) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: Sorry!! Both times I thought it was a one time thing :sweat_smile: I think I got every one of them this time

**Comment by pepamontero** [comment]
-awaiting-author

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by pepamontero** [comment]
Thank you for your time @YaelDillies!! Btw what do you think of the imports issue at #41725? Is it too much hassle?

**Comment by YaelDillies** [comment]
Oh, I see no reason to make this a separate PR. It looks like the diff wouldn't increase much.

**Comment by pepamontero** [comment]
Ok! I will add the changes here then.

**Review by j-loreaux — COMMENTED** [review]
This looks very nice, thanks!

bors merge

**Comment by Ruben-VandeVelde** [comment]
bors retry
